US06956037B2
N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]4-chloromethylbenzamide
4-Chloromethylbenzoyl chloride was reacted with N-(3-amino-4-methylphenyl)-3-dimethylaminobenzamide using an analogous procedure to that described in Example 37 except that the reaction product was triturated under water rather than under 2N aqueous hydrochloric acid solution. There was thus obtained the title compound; NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 2.95 (s, 6H), 4.28 (s, 2H), 6.9 (d, 1H), 7.21 (m, 3H), 7.29 (d, 1H), 7.58 (d, 3H), 7.8 (s, 1H), 7.96 (d, 2H), 9.9 (s, 1H), 10.08 (s, 1H); Mass Spectrum: M−H− 420.

reactant | 4-Chloromethylbenzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | N-(3-amino-4-methylphenyl)-3-dimethylaminobenzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N(C)C)=O | C16H19N3O
product | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]4-chloromethylbenzamide | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC=C(C=C2)CCl)=O)C)C=CC1)C | C24H24ClN3O2
